US04339612
5 g (0.05 mole) of tert.-butyloxirane were added to 12.8 g (0.1 mole) of 4-chlorophenol and 4 g of sodium hydroxide in 20 ml of water. The reaction mixture was stirred at 60° C. for 24 hours and then diluted with about 100 ml of water. It was extracted three times with 50 ml of methylene chloride each time. The combined organic phases were washed with dilute aqueous sodium hydroxide solution for the purpose of removing unreacted phenol, and were dried over sodium sulpnate and concentrated. The residue was distilled in vacuo. 5.9 g (52% of theory) of 1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-ol of boiling point 105° C./0.5 mm Hg were obtained.

reactant | tert.-butyloxirane | 0.05 mole, 5 g | C(C)(C)(C)C1OC1 | C6H12O
reactant | 4-chlorophenol | 0.1 mole, 12.8 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | about 100 ml | O | H2O
product | 1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-ol | 5.9 g, 52% | ClC1=CC=C(OCC(C(C)(C)C)O)C=C1 | C12H17ClO2
